US08535812B2
(1) Synthesis of sodium 3,4-bis[(2-ethylhexyl)oxycarbonyl]cyclohexanesulfonate
In the stream of an argon gas, 80 g of 4-cyclohexene-1,2-dicarboxylic di(2-ethylhexyl)ester (manufactured by Tokyo Chemical Industry Co., Ltd.) and 900 mL of isopropyl alcohol was placed. 660 mL of an aqueous solution of 42.3 g of sodium hydrogen sulfite (manufactured by Wako Pure Chemical Industries, Ltd.) was added. The resulting solution was heated to a reflux temperature, and stirred at 80 to 83° C. for 16 hours. During this stirring, every one hour from the start to 1 to 5 hours after the start of refluxing, as well as after 9 hours and 10 hours, 1.66 g of 2,2′-azobis(isobutyronitrile) (manufactured by Wako Pure Chemical Ltd.) was added. After cooling to room temperature, the reaction liquid was concentrated under reduced pressure.

reactant | 4-cyclohexene-1,2-dicarboxylic di(2-ethylhexyl)ester | 80 g | C(C)C(COC(=O)C1C(CC=CC1)C(=O)OCC(CCCC)CC)CCCC | C24H42O4
reactant | sodium hydrogen sulfite | 42.3 g | S(=O)(O)[O-].[Na+]
reactant | 2,2′-azobis(isobutyronitrile) | 1.66 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | isopropyl alcohol | 900 mL | C(C)(C)O | C3H8O
product | sodium 3,4-bis[(2-ethylhexyl)oxycarbonyl]cyclohexanesulfonate | C(C)C(COC(=O)C1CC(CCC1C(=O)OCC(CCCC)CC)S(=O)(=O)[O-])CCCC.[Na+] | InChI=1S/C24H44O7S.Na/c1-5-9-11-18(7-3)16-30-23(25)21-14-13-20(32(27,28)29)15-22(21)24(26)31-17-19(8-4)12-10-6-2;/h18-22H,5-17H2,1-4H3,(H,27,28,29);/q;+1/p-1
